US06489344B1
[4-(2,4-dichlorophenyl)-5-imidazolylpyrimidin-2-yl](2-{[6-(methylamino)-5-nitro(2-pyridyl)]amino}ethyl)amine was prepared from [4-(2,4-dichlorophenyl)-5-imidazol-1-ylpyrimidin-2-ylethylamine and 6-chloro-2-methylamino-3-nitro-pyridine in accordance with the procedure described above for the preparation of [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(6-methoxy-5-nitro(2-pyridyl))-amino]ethyl}amine.

reactant | 4-(2,4-dichlorophenyl)-5-imidazol-1-ylpyrimidin-2-ylethylamine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1N1C=NC=C1)CCN | C15H13Cl2N5
reactant | 6-chloro-2-methylamino-3-nitro-pyridine | ClC1=CC=C(C(=N1)NC)[N+](=O)[O-] | C6H6ClN3O2
reactant | [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(6-methoxy-5-nitro(2-pyridyl))-amino]ethyl}amine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=CN1)NCCNC1=NC(=C(C=C1)[N+](=O)[O-])OC | C21H18Cl2N8O3
product | [4-(2,4-dichlorophenyl)-5-imidazolylpyrimidin-2-yl](2-{[6-(methylamino)-5-nitro(2-pyridyl)]amino}ethyl)amine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=CN1)NCCNC1=NC(=C(C=C1)[N+](=O)[O-])NC | C21H19Cl2N9O2
